US09422281B2
(S)-4-isopropyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate (I-43)
(S)-4-isopropyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate was prepared from 2-methyl-3,4-dihydroquinoxalin-1(2H)-yl)-2,2,2-trifluoroethanone following the procedure outlined above for (S)-4-cyclopentyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate and substituting isopropyl chloroformate (1.0 M solution in toluene) in Step 1. The desired product was obtained as an off-white solid (0.065 g, 79%). 1H NMR (300 MHz, DMSO-d6) δ ppm 0.90-1.03 (m, 2 H), 1.07 (br d, J=6.16 Hz, 5 H), 1.26 (dd, J=5.86, 2.93 Hz, 6 H), 3.60-3.83 (m, 6 H), 4.49-4.71 (m, 1 H), 4.93 (dt, J=12.46, 6.08 Hz, 1 H), 7.28 (br d, J=7.04 Hz, 1 H), 7.65-7.87 (m, 3 H), 8.14 (s, 1 H). MS (ESI, pos. ion) m/z 399 [M+1]+.

reactant | 2,2,2-trifluoroethanone | FC(C=O)(F)F | C2HF3O
reactant | (S)-4-cyclopentyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC1CCCC1 | C23H28N4O4
reactant | isopropyl chloroformate | 1.0 M | ClC(=O)OC(C)C | C4H7ClO2
product | (S)-4-isopropyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC(C)C | C21H26N4O4
